2165-03-18 07:34:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
 BLOOD CULTURED - At [**2165-3-17**] 09:15 AM
 PICC LINE - START [**2165-3-17**] 09:52 AM
 ENDOSCOPY - At [**2165-3-17**] 11:30 AM
 BLOOD CULTURED - At [**2165-3-17**] 01:00 PM
   [**3-17**]
   - [**Female First Name (un) 14659**], blood bank fellow, [**Telephone/Fax (1) 14660**] [**Pager number 14661**], getting liquid blood
   from [**State **] and also want to r/o DIC before giving factor IX
   - received a total of 4 units pRBCs (two of which were essentially half
   units) and one unit FFP
   - EGD by GI did not show active bleeding in stomach, but did show
   "Severe hemorrhagic gastritis seen in the body of the stomach. Likely
   the source of bleeding in the setting of being on Coumadin, ASA, and
   Plavix." Plan is to re-scope tomorrow after administration of IV
   erythromycin.
   - Seen by Heme/Onc; patient not felt to be in DIC. Was not given
   Profilnine as patient had become more stable.
   - PICC line placed for access
   - oral seizure meds converted to IV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-17**] 01:00 PM
   Cefipime - [**2165-3-17**] 03:00 PM
   Erythromycin - [**2165-3-18**] 04:00 AM
   Infusions:
   Lidocaine - 2 mg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Lidocaine - [**2165-3-17**] 08:00 AM
   Morphine Sulfate - [**2165-3-17**] 09:46 AM
   Fentanyl - [**2165-3-17**] 11:35 AM
   Midazolam (Versed) - [**2165-3-17**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, somewhat delirious but improved quickly after stopping
   lidocaine.
   Flowsheet Data as of  [**2165-3-18**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 115 (110 - 137) bpm
   BP: 123/70(82) {76/45(54) - 141/87(100)} mmHg
   RR: 31 (17 - 41) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,804 mL
                                                                    608 mL
   PO:
             TF:
   IVF:
                                                                  2,356 mL
                                                                    608 mL
   Blood products:
                                                                  2,448 mL
   Total out:
                                                                    920 mL
                                                                    330 mL
   Urine:
                                                                    920 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,884 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Pale, anxious, very drowsy, responds to vigorous
   stimulation
   Eyes / Conjunctiva: Pale conjunctiva
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Pale, warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed,
   Labs / Radiology
   80 K/uL
   9.1 g/dL
   311 mg/dL
   1.7 mg/dL
   27 mEq/L
   5.2 mEq/L
   57 mg/dL
   102 mEq/L
   137 mEq/L
   26.1 %
   13.7 K/uL
        [image002.jpg]
                             [**2165-3-17**]  03:47 AM
                             [**2165-3-17**]  04:23 AM
                             [**2165-3-17**]  08:57 AM
                             [**2165-3-17**]  01:01 PM
                             [**2165-3-17**]  06:29 PM
                             [**2165-3-18**]  12:33 AM
                             [**2165-3-18**]  05:31 AM
   WBC
   12.3
   20.3
   14.0
   13.7
   Hct
   19.8
   22.5
   22.1
   28.2
   26.7
   26.1
   Plt
   [**Telephone/Fax (3) 14662**]0
   Cr
   1.4
   1.6
   1.8
   1.7
   Glucose
   [**Telephone/Fax (3) 14663**]11
   Other labs: PT / PTT / INR:15.4/27.4/1.4, D-dimer:607 ng/mL,
   Fibrinogen:530 mg/dL, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   Imaging: Findings: Esophagus: Normal esophagus.
   Stomach:
    Contents: Large blood clot was noted in the fundus of the stomach. The
   clot could not be washed away with flushes. No active bleeding seen.
    Mucosa: Severe hemorrhagic gastritis seen in the body of the stomach.
   Likely the source of bleeding in the setting of being on Coumadin, ASA,
   and Plavix.
   Duodenum:
    Other No blood seen in the duodenum.
   Impression: Blood in the stomach
   Abnormal mucosa in the stomach
   No blood seen in the duodenum.
   Recommendations: Please continue to reverse coagulopathy. Follow hct
   closely. PPI infusion. Repeat EGD tommorow; please give Erythromycin
   250mg IV x 1 in the AM.
   IMPRESSION: AP chest compared to [**3-13**] through [**3-17**] at 7:58 a.m.
   Tip of the new right PIC line passes at least 10 cm beyond the superior
   cavoatrial junction into the right atrium. Right lower lobe
   consolidation,
   new since [**3-13**], is probably pneumonia. Left infrahilar
   opacification is
   relatively stable, presumably atelectasis. Moderate cardiomegaly
   unchanged.
   Upper lungs grossly clear.
   The findings were reported separately regarding line placement and
   pneumonia
   to the PICC nurse and to the bedside nurse, respectively.
   Microbiology: [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-17**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-17**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2165-3-13**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2165-3-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O MYOCARDIAL INFARCTION
   Mr. [**Known lastname 14636**] is a 67 YOM with CAD s/p CABG, HTN, DM, Afib, and
   schizophrenia who presented with inferior STEMI managed medically, who
   developed melena, Hct drop, and positive NG lavage consistent with
   upper GIB.
   .
   # GIB: Likely upper bleed given melena, nausea, and + NG lavage.  Pt
   complaining of abdominal pain and still having melanotic stools. GI,
   Surgery, and IR all have been notified.  Bleeding may be from
   gastritis, peptic ulcer, dulafoy lesion, [**Doctor First Name **] [**Doctor Last Name **] (although no hx
   of emesis).  Most likely from supratheraputic INR (although this does
   not explain the abdominal pain.  Lower GI source less likely because no
   hematochezia but DDX would include colitis, enteritis, AV
   malformations, diverticulosis.
   -- continue pantoprazole infusion
   -- GI plans to repeat scope today to assess for any more bleeding
   -- INR corrected
   -- transfuse to goal HCT of >30
   -- Hct checks Q8H
   -- maintain IV access with 3 large bore IVs plus PICC
   -- Consider IV fluids if needed for blood pressure (although currently
   hemodynamically stable)
   -- NPO for now
   .
   # Monomorphic ventricular tachycardia: Most likely secondary to an
   irritable focus induced by active ischemia in setting of recent STEMI.
   Has been
   # Social issues - HCP on record at his nursing home is [**First Name4 (NamePattern1) 987**] [**Last Name (NamePattern1) 2372**],
   but she says that she never agreed or signed anything saying that she
   would be his HCP. She is not his daughter as recorded by the [**Name (NI) 333**], is not
   related to his family at all. Does not have any children, spouse, or
   next of [**Doctor First Name 372**] that he is in contact with. [**Name2 (NI) **] has two estranged brothers,
   but [**Name (NI) 987**] and his [**Name (NI) 333**] does not know their names or any contact
   information. [**Name2 (NI) **] at this point is not consentable. He made his
   DNR/DNI decision 2 years ago when he was still deemed competent to make
   decisions per his PCP, [**Last Name (NamePattern4) **]. [**First Name (STitle) 3062**]. Legal was consulted and states that
   interventions that are "reasonable" can be done, which is different
   from heroic life prolonging measures such as CPR that the pt likely
   would not want.
   - Legal recs
   .
   # STEMI: Had inferior resolving STEMI by the time he presented to
   [**Hospital1 19**].  He has been managed medically due to inability to consent to
   catheterization and length of time between MI and presentation for
   cath.
   -- hold aspirin, plavix, and metoprolol given bleeding --> will restart
   after resolves
   -- continue atorvastatin (holding now because NPO)
   .
   #  Coagulopathy:  Supratheraputic INR 5.2 --> 3.2
 1.4 after vitamin K
   10 mg and FFP x 4.  Platelets are also reduced at 95 (and have been as
   low as 42). also has antibodies to blood products and requires special
   "rare" blood
   -- FFP
   -- vitamin K
   -- trend INR
   -- continue to hold warfarin, plavix, and aspirin
   .
   # Altered mental status: Improving, most likely secondary to lidocaine
   and other sedatives such as morphine.
   -- DC lidocaine
   -- Monitor
   # Fever:
   Likely from aspiration PNA.
   -- Vanc/cefepime, discuss with ID re whether zosyn is a better choice
   -- Obtain sputum
   -- blood culture
   -- urine culture-- continue to trend WBC and fever curve
   .
   #  Diabetes:
   -- fingersticks QID
   -- insulin SS at half dose given NPO
   -- lantus at full dose as insufficient
   -- hold glyburide
   .
   #  Seizure disorder:
   -- continue Levetiracetam 500 mg [**Hospital1 7**]
   -- consider stopping Divalproex ER 1000 mg qhs given thrombocytopenia
   .
   # Vtach: developed in setting of hypovolemia from acute blood loss.
   Likley ischemic or periinfarction ischemia leading to irritable
   ventricular focus.
   -- IVF bolus
   -- Would DC Lidocane drip as pt now with 24 hours of hemodynamic
   stability
   .
   # atrial fibrilation:
   -- hold digoxin
   -- holding metoprolol given GIB
   -- holding warfarin given supratheraputic, pt probably failed warfarin
   for life
   .
   # Hypertension:
   -- will monitor
   -- hold metoprolol as above
   .
   # Schizophrenia:
   -- pt is not consentable
   .
   FEN:  NPO for now
   .
   ACCESS: 3 PIV's  + PICC
   .
   PROPHYLAXIS:
   -Pneumaboots
   -Pain management with tylenol
   -holding bowel regimen given GIB
   .
   CODE: DNR/DNI
   .
   COMM:  Pt
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: NPO
   Glycemic Control:  SSI plus Q8H humalog 8 units, plus 34 units Glargine
   Lines:
   18 Gauge - [**2165-3-17**] 03:00 AM
   20 Gauge - [**2165-3-17**] 09:00 AM
   PICC Line - [**2165-3-17**] 09:52 AM
   Prophylaxis:
   DVT: Pneumaboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Pt
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight events and data.
   Agree with Dr.[**Last Name (STitle) 9411**]
s notes and agree with treatment plan outlined.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**].
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**],MD
   on:[**2165-3-20**] 15:00 ------

2165-03-19 07:37:00 Physician Resident Progress Note
Chief Complaint: Melena
   24 Hour Events:
 ENDOSCOPY - At [**2165-3-18**] 11:25 AM
   Time out done at bedside with all participants. 25 mcg fentanyl and 2
   mg versed given as ordered. Endoscopy done without incident.
   [**3-18**]
   - GI: Severe erythema and petechiae of the stomach antrum and body
   consistent with hemorrhagic gastritis. Blood clot noted in prior
   endoscopy is no longer present. No signs of active bleeding.
   Follow Hct. PPI IV gtt while in unit then IV BID thereafter. Start
   Carafate slurry. Check h. pylori serology.
   - Became agitated and receives benzodiazepines at baseline. Gave 0.5
   ativan and he was very sedated. Therefore wrote for 0.25 Q4H PRN
   agitation.
   - Blood bank did not want to dispense blood unless Dr. [**Last Name (STitle) **] directly
   spoke to blood bank attending, Dr. [**First Name8 (NamePattern2) **] [**Name (STitle) 7472**] [**Pager number 14670**]. We passed this
   on to Dr. [**Last Name (STitle) **]. They called several times concerned about use of this
   blood product, but eventually it was made available.
   - Hematocrit from 26.1 to 26.9 with one unit
   - PICC placement confirmed
   - Switched to Vanc/Zosyn
   - Dextrose (D5W) with vancomycin likely major contributor to ongoing
   hyperglycemia while NPO
   - Lasix 10 mg prior to blood
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-3-17**] 03:00 PM
   Erythromycin - [**2165-3-18**] 04:00 AM
   Vancomycin - [**2165-3-18**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2165-3-19**] 05:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2165-3-18**] 11:22 AM
   Midazolam (Versed) - [**2165-3-18**] 11:28 AM
   Lorazepam (Ativan) - [**2165-3-19**] 01:06 AM
   Furosemide (Lasix) - [**2165-3-19**] 02:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-19**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 100 (96 - 165) bpm
   BP: 117/57(71) {107/55(67) - 137/80(91)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,578 mL
                                                                    733 mL
   PO:
           TF:
   IVF:
                                                                  2,342 mL
                                                                    502 mL
   Blood products:
                                                                    236 mL
                                                                    231 mL
   Total out:
                                                                  1,282 mL
                                                                    660 mL
   Urine:
                                                                  1,282 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,296 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Less pain today, anxious, no longer drowsy,
   shouting spontaneously
   Eyes / Conjunctiva: Pale conjunctiva
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Pale, warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Not assessed,
   Labs / Radiology
   67 K/uL
   9.9 g/dL
   221 mg/dL
   1.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   54 mg/dL
   107 mEq/L
   143 mEq/L
   28.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2165-3-17**]  04:23 AM
                             [**2165-3-17**]  08:57 AM
                             [**2165-3-17**]  01:01 PM
                             [**2165-3-17**]  06:29 PM
                             [**2165-3-18**]  12:33 AM
                             [**2165-3-18**]  05:31 AM
                             [**2165-3-18**]  01:28 PM
                             [**2165-3-18**]  04:11 PM
                             [**2165-3-18**]  07:58 PM
                             [**2165-3-19**]  06:15 AM
   WBC
   20.3
   14.0
   13.7
   7.8
   8.2
   Hct
   22.5
   22.1
   28.2
   26.7
   26.1
   26.9
   25.2
   28.9
   Plt
   328
   113
   80
   64
   67
   Cr
   1.4
   1.6
   1.8
   1.7
   1.7
   1.6
   Glucose
   [**Telephone/Fax (2) 14671**]
   Other labs: PT / PTT / INR:15.0/25.4/1.3, ALT / AST:21/34, Alk Phos / T
   Bili:48/1.4, D-dimer:607 ng/mL, Fibrinogen:530 mg/dL, LDH:369 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Imaging: EGD [**2165-3-18**]:
   Findings: Esophagus: Normal esophagus.
   Stomach:
    Mucosa: Severe erythema and petechiae of the stomach antrum and body
   consistent with hemorrhagic gastritis. Blood clot noted in prior
   endoscopy is no longer present. No signs of active bleeding.
   Duodenum: Normal duodenum.
   Impression: Abnormal mucosa in the stomach
   Otherwise normal EGD to second part of the duodenum
   Recommendations: Follow Hct. PPI IV. Start Carafate slurry. Check h.
   pylori serology.
   CXR [**2165-3-18**]:
   Tip of the left PIC line is in the region of the superior cavoatrial
   junction.
   Moderate cardiomegaly is stable. Left lower lobe consolidation has
   worsened,
   right improved consistent with atelectasis. Small bilateral pleural
   effusions are slightly increased. Upper lungs clear. No pneumothorax.
   Microbiology: [**2165-3-18**]  SEROLOGY/BLOOD HELICOBACTER PYLORI ANTIBODY
   TEST-PENDING INPATIENT
   [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-17**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-17**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2165-3-13**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2165-3-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O MYOCARDIAL INFARCTION
   Mr. [**Known lastname 14636**] is a 67 YOM with CAD s/p CABG, HTN, DM, Afib, and
   schizophrenia who presented with inferior STEMI managed medically, who
   developed melena, Hct drop, and positive NG lavage consistent with
   upper GIB.
   .
   # GIB: Likely upper bleed given melena, nausea, and + NG lavage.  Pt
   complaining of abdominal pain and still having melanotic stools. GI,
   Surgery, and IR all have been notified.  Bleeding may be from
   gastritis, peptic ulcer, dulafoy lesion, [**Doctor First Name **] [**Doctor Last Name **] (although no hx
   of emesis).  Most likely from supratheraputic INR (although this does
   not explain the abdominal pain.  Lower GI source less likely because no
   hematochezia but DDX would include colitis, enteritis, AV
   malformations, diverticulosis.
   -- continue pantoprazole 40mg IV BID
   -- Monitor HCT for another 24 hours, if remains stable, pt can be
   called out to floor tomorrow
   -- INR corrected
   -- transfuse to goal HCT of >30
   -- Give one unit of platelets as may not have functioning platelets
   from aspirin
   -- Hct checks Q12H
   -- maintain IV access with 2 large bore IVs plus 20 gauge and PICC
   -- Consider IV fluids if needed for blood pressure (although currently
   hemodynamically stable)
   -- Can cautiously advance to clears diet with carafate slurry
   -- F/u H Pylori serology
   .
   # Vtach: developed in setting of hypovolemia from acute blood loss.
   Likley ischemic or periinfarction ischemia leading to irritable
   ventricular focus. Short runs of NSVT overnight.
   -- IVF bolus
   -- Would continue to hold Lidocane drip as pt now with 24 hours of
   hemodynamic stability
   -- Monitor tele
   -- Replete lytes Mg>2, K>4, recheck lytes in PM
   # Social issues - HCP on record at his nursing home is [**First Name4 (NamePattern1) 987**] [**Last Name (NamePattern1) 2372**],
   but she says that she never agreed or signed anything saying that she
   would be his HCP. She is not his daughter as recorded by the [**Name (NI) 333**], is not
   related to his family at all. Does not have any children, spouse, or
   next of [**Doctor First Name 372**] that he is in contact with. [**Name2 (NI) **] has two estranged brothers,
   but [**Name (NI) 987**] and his [**Name (NI) 333**] does not know their names or any contact
   information. [**Name2 (NI) **] at this point is not consentable. He made his
   DNR/DNI decision 2 years ago when he was still deemed competent to make
   decisions per his PCP, [**Last Name (NamePattern4) **]. [**First Name (STitle) 3062**]. Legal was consulted and states that
   interventions that are "reasonable" can be done, which is different
   from heroic life prolonging measures such as CPR that the pt likely
   would not want.
   - Legal recs
   .
   # STEMI: Had inferior resolving STEMI by the time he presented to
   [**Hospital1 19**].  He has been managed medically due to inability to consent to
   catheterization and length of time between MI and presentation for
   cath.
   -- hold aspirin, plavix, and metoprolol given bleeding --> will restart
   after resolves
   -- continue atorvastatin (holding now because NPO)
   .
   #  Coagulopathy:  Supratheraputic INR 5.2 --> 3.2
 1.3 after vitamin K
   10 mg and FFP x 4.  Platelets are also reduced at 67 (and have been as
   low as 42). also has antibodies to blood products and requires special
   "rare" blood
   -- trend INR
   -- continue to hold warfarin, plavix, and aspirin, pt probably failed
   warfarin and plavix for life, may restart baby aspirin today or
   tomorrow (but will need to discuss this with GI)
   # Thrombocytopenia: Most likely medication induced from combination of
   valproate (chronically lives in 50s-100s) and now with pantoprazole
   infusion possibly contributing.
   -- Change pantoprazole to IV BID
   -- 1 unit of platelets per above
   .
   # Altered mental status: Improving, most likely secondary to lidocaine
   and other sedatives such as morphine.
   -- Continue to hold lidocaine
   -- Restart home psych regimen once mental status clears
   -- Monitor
   # Abdominal distension: Most likely gas from EGD vs constipation. No
   significant TTP, quiet bowel sounds, perforated gastric ulcer unlikely
   given no sign of ulcer on EGD.
   -- KUB to r/o air under diaphragm and obstruction
   # Fever:
   Likely from aspiration PNA.
   -- Vanc/zosyn now, Day 1 = [**2165-3-17**]
   -- Obtain sputum
   -- blood culture
   -- urine culture-- continue to trend WBC and fever curve
   .
   #  Diabetes:
   -- fingersticks QID
   -- insulin SS at half dose given NPO
   -- lantus at half dose
   -- hold glyburide
   .
   #  Seizure disorder:
   -- continue Levetiracetam 500 mg [**Hospital1 7**]
   -- consider stopping Divalproex ER 1000 mg qhs if thrombocytopenia
   continues to worsen <50
   .
   # atrial fibrilation:
   -- hold digoxin
   -- holding metoprolol given GIB
   -- holding warfarin given supratheraputic, pt probably failed warfarin
   for life
   .
   # Hypertension:
   -- will monitor
   -- hold metoprolol as above
   .
   # Schizophrenia:
   -- pt is not consentable
   .
   FEN: NPO for now
   .
   ACCESS: 3 PIV's + PICC
   .
   PROPHYLAXIS:
   -Pneumaboots
   -Pain management with tylenol
   -holding bowel regimen given GIB
   .
   CODE: DNR/DNI
   .
   COMM: Pt
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: Cautiously advance to clears
   Glycemic Control:  SSI plus Q8H humalog 8 units, plus 34 units Glargine
   (now would switch to full dose if still hyperglycemic if taking
   adequate clears)
   Lines:
   18 Gauge - [**2165-3-17**] 03:00 AM
   18 Gauge - [**2165-3-17**] 03:00 AM
   20 Gauge - [**2165-3-17**] 09:00 AM
   PICC Line - [**2165-3-17**] 09:52 AM
   Prophylaxis:
   DVT: Pneumaboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Pt
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight events and data.
   Agree with Dr.[**Last Name (STitle) 9411**]
s notes and agree with treatment plan outlined.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**].
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**],MD
   on:[**2165-3-20**] 15:01 ------

2165-03-20 07:48:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
 EKG - At [**2165-3-19**] 08:00 AM
   [**3-19**]
   - yelling throughout day when left alone
   - during washing in the afternoon developed tachycardia to 150s, to
   treat gave:
   lopressor 5 mg IV x 6
   ativan 0.5 mg x2, then 1 mg
   trazodone 50, then 100 mg
   clonazepam
   dilt 10 mg x 3
   dig 0.25 mg PO
   metoprolol 25 mg po x 1
   ...and still tachycardic to 130s
   - [**Name (NI) 167**] nursing home which states pt yelling all the time is his
   baseline, confirmed trazodone and ativan meds
   - given full dose long acting insulin
   - got 20 mg IV lasix (home po dose equivalent), was not negative at 8
   pm and had scrotal/extremity edema so gave 20 mg IV more lasix
   - has evidence of sacral ulcer forming per nursing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-3-17**] 03:00 PM
   Erythromycin - [**2165-3-18**] 04:00 AM
   Vancomycin - [**2165-3-19**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2165-3-20**] 06:06 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2165-3-19**] 07:39 PM
   Furosemide (Lasix) - [**2165-3-19**] 08:28 PM
   Metoprolol - [**2165-3-20**] 12:08 AM
   Lorazepam (Ativan) - [**2165-3-20**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies abdominal pain.
   Flowsheet Data as of  [**2165-3-20**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 135 (84 - 135) bpm
   BP: 110/66(76) {87/54(61) - 134/85(97)} mmHg
   RR: 30 (23 - 38) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,770 mL
                                                                    286 mL
   PO:
                                                                    440 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,855 mL
                                                                    256 mL
   Blood products:
                                                                    475 mL
   Total out:
                                                                  2,513 mL
                                                                    245 mL
   Urine:
                                                                  2,513 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    257 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Less pain today, anxious, no longer drowsy,
   shouting spontaneously
   Eyes / Conjunctiva: Pale conjunctiva
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds quiet, Distended (slightly
   more than prior), Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Pale, warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Not assessed,
   Labs / Radiology
   110 K/uL
   10.6 g/dL
   231 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   54 mg/dL
   107 mEq/L
   143 mEq/L
   31.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2165-3-17**]  01:01 PM
                             [**2165-3-17**]  06:29 PM
                             [**2165-3-18**]  12:33 AM
                             [**2165-3-18**]  05:31 AM
                             [**2165-3-18**]  01:28 PM
                             [**2165-3-18**]  04:11 PM
                             [**2165-3-18**]  07:58 PM
                             [**2165-3-19**]  06:15 AM
                             [**2165-3-19**]  05:53 PM
                             [**2165-3-20**]  06:00 AM
   WBC
   14.0
   13.7
   7.8
   8.2
   10.7
   Hct
   22.1
   28.2
   26.7
   26.1
   26.9
   25.2
   28.9
   31.7
   31.8
   Plt
   113
   80
   64
   67
   127
   110
   Cr
   1.8
   1.7
   1.7
   1.6
   1.7
   1.9
   TropT
   5.05
   Glucose
   [**Telephone/Fax (3) **]21
   211
   231
   Other labs: PT / PTT / INR:14.8/25.3/1.3, CK / CKMB /
   Troponin-T:101/4/5.05, ALT / AST:21/34, Alk Phos / T Bili:48/1.4,
   D-dimer:607 ng/mL, Fibrinogen:530 mg/dL, LDH:369 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: Report Pending
   Microbiology: [**2165-3-18**]  SEROLOGY/BLOOD HELICOBACTER PYLORI ANTIBODY
   TEST-PENDING INPATIENT
   [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-17**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2165-3-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O MYOCARDIAL INFARCTION
   Mr. [**Known lastname 14636**] is a 67 YOM with CAD s/p CABG, HTN, DM, Afib, and
   schizophrenia who presented with inferior STEMI managed medically, who
   developed melena, Hct drop, and positive NG lavage consistent with
   upper GIB.
   .
   # GIB: Likely upper bleed given melena, nausea, and + NG lavage.  Pt
   complaining of abdominal pain and still having melanotic stools.  EGD
   confirms severe hemorrhagic gastritis and in setting of
   supratherapeutic INR most likely source of bleed.
   -- continue pantoprazole 40mg IV BID
   -- INR corrected
   -- transfuse to goal HCT of >30
   -- 1 unit platelets given yesterday
   -- Hct checks Daily
   -- maintain IV access with 2 large bore IVs plus 20 gauge and PICC
   -- Consider IV fluids if needed for blood pressure (although currently
   hemodynamically stable)
   -- Can cautiously advance to full liquids diet with carafate slurry
   -- F/u H Pylori serology
   .
   # Tachycardia: Most likely atrial tachycardia with variable conduction.
   Dehydration, hypoxia, or fever unlikely triggers. Trigger was most
   likely adrenergic surge in setting of agitation. Ddx includes a
   flutter.
   -- Obtain 12 lead to confirm
   -- Start diltiazem gtt
   -- Treat underlying agitation as before
   -- Continue metoprolol 25mg PO Q8H
   -- If no improvement, will make NPO after MN for elective cardioversion
   as pt not an anticoagulation candidate
   # Vtach: developed in setting of hypovolemia from acute blood loss.
   Likley ischemic or periinfarction ischemia leading to irritable
   ventricular focus. No more sustained V tach for 48 hours.
   -- Would continue to hold Lidocane drip as pt now with 48 hours of
   hemodynamic stability
   -- Monitor tele
   -- Replete lytes Mg>2, K>4
   # Social issues - HCP on record at his nursing home is [**First Name4 (NamePattern1) 987**] [**Last Name (NamePattern1) 2372**],
   but she says that she never agreed or signed anything saying that she
   would be his HCP. She is not his daughter as recorded by the [**Name (NI) 333**], is not
   related to his family at all. Does not have any children, spouse, or
   next of [**Doctor First Name 372**] that he is in contact with. [**Name2 (NI) **] has two estranged brothers,
   but [**Name (NI) 987**] and his [**Name (NI) 333**] does not know their names or any contact
   information. [**Name2 (NI) **] at this point is not consentable. He made his
   DNR/DNI decision 2 years ago when he was still deemed competent to make
   decisions per his PCP, [**Last Name (NamePattern4) **]. [**First Name (STitle) 3062**]. Legal was consulted and states that
   interventions that are "reasonable" can be done, which is different
   from heroic life prolonging measures such as CPR that the pt likely
   would not want.
   - Legal recs
   .
   # STEMI: Had inferior resolving STEMI by the time he presented to
   [**Hospital1 19**].  He has been managed medically due to inability to consent to
   catheterization and length of time between MI and presentation for
   cath.
   -- hold aspirin, plavix, given bleeding --> will likely restart ASA 1
   week after resolution
   -- continue atorvastatin
   .
   #  Coagulopathy:  Supratheraputic INR 5.2 --> 3.2
 1.3 after vitamin K
   10 mg and FFP x 4.  Platelets are also reduced at 67 (and have been as
   low as 42). also has antibodies to blood products and requires special
   "rare" blood
   -- trend INR
   -- continue to hold warfarin, plavix, and aspirin, pt probably failed
   warfarin and plavix for life, may restart baby aspirin 1 week after
   resolution
   # Thrombocytopenia: Improved after transfusion. Most likely medication
   induced from combination of valproate (chronically lives in 50s-100s)
   and now with pantoprazole infusion possibly contributing.
   -- Change pantoprazole to IV BID
   -- Monitor
   .
   # Acute on chronic systolic heart failure: Likely caused by multiple
   transfusions. Not a significant oxygen requirement. Given uncertain
   abdominal pathology and tachycardia.
   -- Hold on lasix until tomorrow
   # ARF: Most likely secondary to hypoperfusion in setting of severe GI
   bleed, however, unclear why continuing to worsen.
   -- Check U/A with urine lytes
   -- Analyze urine sediment with renal
   -- Consider renal U/S if continues to worsen
   # Altered mental status: Improving, most likely secondary to lidocaine
   and other sedatives such as morphine.
   -- Continue to hold lidocaine
   -- Restart home psych regimen once mental status clears
   -- Monitor
   # Abdominal distension: Most likely gas from EGD vs constipation. No
   significant TTP, quiet bowel sounds, perforated gastric ulcer unlikely
   given no sign of ulcer on EGD.
   -- f/u final report KUB to r/o air under diaphragm and obstruction
   -- If nondiagnostic would repeat KUB
   -- Low threshold to obtain CT abdomen without contrast
   # Fever:
   Likely from aspiration PNA.
   -- Vanc/zosyn now, Day 1 = [**2165-3-17**], day [**3-7**]
   -- Obtain sputum
   -- blood culture
   -- urine culture-- continue to trend WBC and fever curve
   .
   #  Diabetes:
   -- fingersticks QID
   -- insulin SS at full dose
   -- lantus at full dose
   -- hold glyburide
   .
   #  Seizure disorder:
   -- continue Levetiracetam 500 mg [**Hospital1 7**]
   -- consider stopping Divalproex ER 1000 mg qhs if thrombocytopenia
   continues to worsen <50
   .
   # atrial fibrilation:
   -- hold digoxin
   -- Metoprolol and dilt gtt per above
   -- holding warfarin given supratheraputic, pt probably failed warfarin
   for life
   .
   # Hypertension:
   -- will monitor
   -- hold metoprolol as above
   .
   # Schizophrenia:
   -- pt is not consentable
   .
   FEN: Full liquids
   .
   ACCESS: 3 PIV's + PICC
   .
   PROPHYLAXIS:
   -Pneumaboots
   -Pain management with tylenol
   -holding bowel regimen given GIB
   .
   CODE: DNR/DNI
   .
   COMM: Pt
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: Advance to full liquids
   Glycemic Control:  SSI plus Q8H humalog 8 units, plus 34 units Glargine
   (now would switch to full dose if still hyperglycemic if taking
   adequate clears)
   Lines:
   18 Gauge - [**2165-3-17**] 03:00 AM
   18 Gauge - [**2165-3-17**] 03:00 AM
   20 Gauge - [**2165-3-17**] 09:00 AM
   PICC Line - [**2165-3-17**] 09:52 AM
   Prophylaxis:
   DVT: Pneumaboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Pt
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight events and data.
   Agree with Dr.[**Last Name (STitle) 9411**]
s notes and agree with treatment plan outlined.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**].
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**],MD
   on:[**2165-3-20**] 15:02 ------

2165-03-21 07:19:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
 EKG - At [**2165-3-20**] 09:00 AM
 EKG - At [**2165-3-20**] 02:57 PM
   to evaluate AFib
 URINE CULTURE - At [**2165-3-20**] 03:00 PM
   [**3-20**]
   - called out to [**Hospital Ward Name 289**] 3
   - Echo from PCP ([**8-8**]) with LVEF 60%, no WMA. Nuclear ETT with 10.5
   mins on [**Doctor First Name 84**] without perfusion defect. LVEF estimate on ETT same day
   was 34%.
   - lisinopril 5 mg started
   - metoprolol increased to TID
   - cardiac MR obtained, prelim read is some endocardial enhancement in
   the LAD territory consistent with ischemic insult
   - given one dose Ambien for insomnia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-20**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2165-3-20**] 09:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-3-20**] 08:15 AM
   Diltiazem - [**2165-3-20**] 09:30 AM
   Furosemide (Lasix) - [**2165-3-20**] 04:33 PM
   Carafate (Sucralfate) - [**2165-3-20**] 09:30 PM
   Lorazepam (Ativan) - [**2165-3-21**] 01:00 AM
   Morphine Sulfate - [**2165-3-21**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 102 (78 - 134) bpm
   BP: 104/62(73) {86/44(58) - 130/87(93)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,679 mL
                                                                     73 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                  1,169 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    105 mL
   Urine:
                                                                    835 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    844 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   9.4 g/dL
   233 mg/dL
   2.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   60 mg/dL
   108 mEq/L
   144 mEq/L
   28.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2165-3-18**]  12:33 AM
                             [**2165-3-18**]  05:31 AM
                             [**2165-3-18**]  01:28 PM
                             [**2165-3-18**]  04:11 PM
                             [**2165-3-18**]  07:58 PM
                             [**2165-3-19**]  06:15 AM
                             [**2165-3-19**]  05:53 PM
                             [**2165-3-20**]  06:00 AM
                             [**2165-3-20**]  03:25 PM
                             [**2165-3-21**]  05:08 AM
   WBC
   13.7
   7.8
   8.2
   10.7
   13.0
   7.8
   Hct
   26.7
   26.1
   26.9
   25.2
   28.9
   31.7
   31.8
   31.5
   28.6
   Plt
   80
   64
   67
   127
   110
   141
   88
   Cr
   1.7
   1.7
   1.6
   1.7
   1.9
   2.0
   2.5
   TropT
   5.05
   Glucose
   [**Telephone/Fax (3) 14696**]
   233
   Other labs: PT / PTT / INR:15.4/26.8/1.4, CK / CKMB /
   Troponin-T:101/4/5.05, ALT / AST:20/11, Alk Phos / T Bili:54/0.6,
   D-dimer:607 ng/mL, Fibrinogen:530 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:219 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.5
   mg/dL
   Microbiology: [**2165-3-20**] URINE URINE CULTURE-PENDING
   INPATIENT
   [**2165-3-18**] SEROLOGY/BLOOD HELICOBACTER PYLORI ANTIBODY
   TEST-FINAL INPATIENT
   [**2165-3-17**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2165-3-17**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2165-3-17**] URINE URINE CULTURE-FINAL INPATIENT
   [**2165-3-17**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O MYOCARDIAL INFARCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-3-17**] 03:00 AM
   20 Gauge - [**2165-3-17**] 09:00 AM
   PICC Line - [**2165-3-17**] 09:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-03-21 07:20:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
 EKG - At [**2165-3-20**] 09:00 AM
 EKG - At [**2165-3-20**] 02:57 PM
   to evaluate AFib
 URINE CULTURE - At [**2165-3-20**] 03:00 PM
   [**3-20**]
   - called out to [**Hospital Ward Name 289**] 3
   - Echo from PCP ([**8-8**]) with LVEF 60%, no WMA. Nuclear ETT with 10.5
   mins on [**Doctor First Name 84**] without perfusion defect. LVEF estimate on ETT same day
   was 34%.
   - lisinopril 5 mg started
   - metoprolol increased to TID
   - cardiac MR obtained, prelim read is some endocardial enhancement in
   the LAD territory consistent with ischemic insult
   - given one dose Ambien for insomnia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-20**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2165-3-20**] 09:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-3-20**] 08:15 AM
   Diltiazem - [**2165-3-20**] 09:30 AM
   Furosemide (Lasix) - [**2165-3-20**] 04:33 PM
   Carafate (Sucralfate) - [**2165-3-20**] 09:30 PM
   Lorazepam (Ativan) - [**2165-3-21**] 01:00 AM
   Morphine Sulfate - [**2165-3-21**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complaining of pain.
   Flowsheet Data as of  [**2165-3-21**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 102 (78 - 134) bpm
   BP: 104/62(73) {86/44(58) - 130/87(93)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,679 mL
                                                                     73 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                  1,169 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                    105 mL
   Urine:
                                                                    835 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    844 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: More drowsy in setting of receiving more morphine
   Eyes / Conjunctiva: Pale conjunctiva
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended (slightly
   more than prior), dull to percussion, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Pale, warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed,
   Labs / Radiology
   88 K/uL
   9.4 g/dL
   233 mg/dL
   2.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   60 mg/dL
   108 mEq/L
   144 mEq/L
   28.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2165-3-18**]  12:33 AM
                             [**2165-3-18**]  05:31 AM
                             [**2165-3-18**]  01:28 PM
                             [**2165-3-18**]  04:11 PM
                             [**2165-3-18**]  07:58 PM
                             [**2165-3-19**]  06:15 AM
                             [**2165-3-19**]  05:53 PM
                             [**2165-3-20**]  06:00 AM
                             [**2165-3-20**]  03:25 PM
                             [**2165-3-21**]  05:08 AM
   WBC
   13.7
   7.8
   8.2
   10.7
   13.0
   7.8
   Hct
   26.7
   26.1
   26.9
   25.2
   28.9
   31.7
   31.8
   31.5
   28.6
   Plt
   80
   64
   67
   127
   110
   141
   88
   Cr
   1.7
   1.7
   1.6
   1.7
   1.9
   2.0
   2.5
   TropT
   5.05
   Glucose
   [**Telephone/Fax (3) 14696**]
   233
   Other labs: PT / PTT / INR:15.4/26.8/1.4, CK / CKMB /
   Troponin-T:101/4/5.05, ALT / AST:20/11, Alk Phos / T Bili:54/0.6,
   D-dimer:607 ng/mL, Fibrinogen:530 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.6 g/dL, LDH:219 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.5
   mg/dL
   Microbiology: [**2165-3-20**] URINE URINE CULTURE-PENDING
   INPATIENT
   [**2165-3-18**] SEROLOGY/BLOOD HELICOBACTER PYLORI ANTIBODY
   TEST-FINAL INPATIENT
   [**2165-3-17**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2165-3-17**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2165-3-17**] URINE URINE CULTURE-FINAL INPATIENT
   [**2165-3-17**] BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DIABETES MELLITUS (DM), TYPE II
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 .H/O MYOCARDIAL INFARCTION
   Mr. [**Known lastname 14636**] is a 67 YOM with CAD s/p CABG, HTN, DM, Afib, and
   schizophrenia who presented with inferior STEMI managed medically, who
   developed melena, Hct drop, and positive NG lavage consistent with
   upper GIB.
   .
   # ARF: Now oliguric. Most likely secondary to hypoperfusion in setting
   of severe GI bleed, however, unclear why continuing to worsen. Ddx
   includes vancomycin toxicity given supratherapeutic levels, vs zosyn
   toxicity.
   -- Renal consult
   -- Reanalyze urine sediment with renal
   -- Renal U/S
   -- Adjust vanc and zosyn dosing
   -- Discuss with renal if either abx is a possible culprit then will
   have to readjust HAP dosing
   -- Change to renal diet
   -- Renally dose remainder of medications
   # GIB: Likely upper bleed given melena, nausea, and + NG lavage.  Pt
   complaining of abdominal pain and still having melanotic stools. EGD
   confirms severe hemorrhagic gastritis and in setting of
   supratherapeutic INR most likely source of bleed. No longer having
   melena. H Pylori negative.
   -- continue pantoprazole 40mg IV BID
   -- INR corrected
   -- transfuse only if HCT unstable to goal >30 if possible
   -- Hct check [**Hospital1 7**] given trend downward
   -- maintain IV access with 2 large bore IVs plus 20 gauge and PICC
   -- Consider IV fluids if needed for blood pressure (although currently
   hemodynamically stable)
   -- Can cautiously advance to regular cardiac, renal, and diabetic diet
   with carafate slurry
   .
   # Tachycardia: Most likely atrial tachycardia with variable conduction.
   Dehydration, hypoxia, or fever unlikely triggers. Trigger was most
   likely adrenergic surge in setting of agitation. Ddx includes a
   flutter.
   -- Continue dilt 90mg PO QID for now
   -- Treat underlying agitation as before
   -- Continue metoprolol 50mg PO Q8H
   -- No need for cardioversion now
   -- Monitor telemetry
   # Acute on chronic heart failure: Most likely secondary to blood and
   fluid given in setting of GI bleed with likely RV failure from probable
   inferior MI.
   -- Recommend lasix 60mg IV ONCE and titrate to goal negative 1L
   -- PM Lytes
   -- Monitor Is/Os
   -- Low sodium diet
   -- Continue rate control
   -- Recommend renal U/S to look for ascites
   # Vtach: developed in setting of hypovolemia from acute blood loss.
   Likely ischemic or periinfarction ischemia leading to irritable
   ventricular focus. No more sustained V tach for 48 hours.  Resolved.
   # Altered mental status: Patient with baseline yelling and confusion,
   unclear whether on appropriate regimen for presumed diagnosis of
   schizophrenia as pt not on any antipsychotics. Ie, trazadone seems a
   strange medicine for presumed schizophrenia.
   --  Psychiatry regimen to optimize his medicine
   -- Hold off on morphine as unclear if pt really in pain
   -- Continue to hold lidocaine
   -- Monitor mental status
   # STEMI: Had inferior resolving STEMI by the time he presented to
   [**Hospital1 19**].  He has been managed medically due to inability to consent to
   catheterization and length of time between MI and presentation for
   cath.
   -- hold aspirin, plavix, given bleeding --> will likely restart ASA
   81mg PO daily 1 week after resolution (would restart [**2165-3-24**])
   -- continue atorvastatin
   .
   #  Coagulopathy:  Supratheraputic INR 5.2 --> 3.2
 1.3 after vitamin K
   10 mg and FFP x 4.  Platelets are also reduced at 67 (and have been as
   low as 42). also has antibodies to blood products and requires special
   "rare" blood
   -- trend INR
   -- continue to hold warfarin, plavix, and aspirin, pt probably failed
   warfarin and plavix for life, may restart baby aspirin 1 week after
   resolution
   # Thrombocytopenia: Improved after transfusion. Most likely medication
   induced from combination of valproate (chronically lives in 50s-100s)
   and now with pantoprazole infusion possibly contributing.
   -- Change pantoprazole to IV BID
   -- Monitor
   .
   # Abdominal distension: Most likely ascites given dullness to
   percussion versus gas from EGD vs constipation. No significant TTP,
   bowel sounds improving, perforated gastric ulcer unlikely given no sign
   of ulcer on EGD.
   -- Serial abdominal exams (have been remaining stable)
   -- Request renal U/S to look for ascites
   -- Low threshold to obtain CT abdomen without contrast
   # Fever: Resolved. Likely from aspiration PNA.
   -- Vanc/zosyn now, Day 1 = [**2165-3-17**], day [**4-6**]
   -- Plan per above whether one of the abx is causing the renal failure
   may need to alter regimen
   -- Obtain sputum
   -- blood culture
   -- urine culture-- continue to trend WBC and fever curve
   .
   #  Diabetes:
   -- fingersticks QID
   -- insulin SS at full dose
   -- lantus at full dose
   -- hold glyburide
   .
   #  Seizure disorder:
   -- continue Levetiracetam 500 mg [**Hospital1 7**]
   -- consider stopping Divalproex ER 1000 mg qhs if thrombocytopenia
   continues to worsen <50
   .
   # atrial fibrilation:
   -- hold digoxin
   -- Metoprolol and dilt gtt per above
   -- holding warfarin given supratheraputic, pt probably failed warfarin
   for life
   .
   # Hypertension:
   -- will monitor
   -- hold metoprolol as above
   .
   # Schizophrenia:
   -- pt is not consentable
   .
   # Social issues - HCP on record at his nursing home is [**First Name4 (NamePattern1) 987**] [**Last Name (NamePattern1) 2372**],
   but she says that she never agreed or signed anything saying that she
   would be his HCP. She is not his daughter as recorded by the [**Name (NI) 333**], is not
   related to his family at all. Does not have any children, spouse, or
   next of [**Doctor First Name 372**] that he is in contact with. [**Name2 (NI) **] has two estranged brothers,
   but [**Name (NI) 987**] and his [**Name (NI) 333**] does not know their names or any contact
   information. [**Name2 (NI) **] at this point is not consentable. He made his
   DNR/DNI decision 2 years ago when he was still deemed competent to make
   decisions per his PCP, [**Last Name (NamePattern4) **]. [**First Name (STitle) 3062**]. Legal was consulted and states that
   interventions that are "reasonable" can be done, which is different
   from heroic life prolonging measures such as CPR that the pt likely
   would not want.
   - Legal recs
   .
   FEN: Full liquids
   .
   ACCESS: 3 PIV's + PICC
   .
   PROPHYLAXIS:
   -Pneumaboots
   -Pain management with tylenol
   -holding bowel regimen given GIB
   .
   CODE: DNR/DNI
   .
   COMM: Pt
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: Advance to regular diet with cardiac, renal, and diabetic
   restrictions
   Glycemic Control:  SSI plus Q8H humalog 8 units, plus 34 units Glargine
   (now would switch to full dose if still hyperglycemic if taking
   adequate clears)
   Lines:
   18 Gauge - [**2165-3-17**] 03:00 AM
   18 Gauge - [**2165-3-17**] 03:00 AM
   20 Gauge - [**2165-3-17**] 09:00 AM
   PICC Line - [**2165-3-17**] 09:52 AM
   Prophylaxis:
   DVT: Pneumaboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Pt
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: Call back out to [**Hospital Ward Name 289**] 3 [**Hospital1 1896**] team
   ------ Protected Section ------
   Attending
s Note
   Reviewed overnight events and examined Pt.
   Agree with the notes from dr.[**Last Name (STitle) 9411**] and treatment plan
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**],MD
   on:[**2165-3-21**] 13:10 ------
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**],MD
   on:[**2165-3-21**] 13:12 ------